US09212168B2
((S)-1-{(2S,4S)-2-[4-(4′-{6-[(R)-4-((S)-2,2-Dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-pyridin-3-ylcarbamoyl}-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-4-methyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
To a mixture of 4′-{2-[(2S,4S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-4-methyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carboxylic acid TFA (11.4 mg, 0.016 mmol) and HATU (6.8 mg, 0.018 mmol) in DMF (0.5 mL) at RT was added [(R)-4-(5-amino-pyridin-2-yl)-3-methyl-piperazin-1-yl]-((S)-2,2-dimethyl-cyclopropyl)-methanone (5.1 mg, 0.018 mmol, Preparation 17) followed by N,N-diisopropylethylamine (14.07 μL, 0.081 mmol). The reaction mixture was stirred at RT overnight, concentrated, dissolved in 1:1 acetic acid:water (1.5 mL) and purified by reverse phase HPLC to provide the di-TFA salt of the title compound (9 mg). (m/z): [M+H]+ calcd for C45H53F3N8O6 859.40. found 859.4.

reactant | 4′-{2-[(2S,4S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-4-methyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carboxylic acid TFA | 0.016 mmol, 11.4 mg | OC(=O)C(F)(F)F.COC(=O)N[C@H](C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)O)OC(F)(F)F)C(C)C
reactant | HATU | 0.018 mmol, 6.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | [(R)-4-(5-amino-pyridin-2-yl)-3-methyl-piperazin-1-yl]-((S)-2,2-dimethyl-cyclopropyl)-methanone | 0.018 mmol, 5.1 mg | NC=1C=CC(=NC1)N1[C@@H](CN(CC1)C(=O)[C@@H]1C(C1)(C)C)C | C16H24N4O
reactant | N,N-diisopropylethylamine | 0.081 mmol, 14.07 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | ((S)-1-{(2S,4S)-2-[4-(4′-{6-[(R)-4-((S)-2,2-Dimethyl-cyclopropanecarbonyl)-2-methyl-piperazin-1-yl]-pyridin-3-ylcarbamoyl}-2′-trifluoromethoxy-biphenyl-4-yl)-1H-imidazol-2-yl]-4-methyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 9 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(NC=1C=NC(=CC1)N1[C@@H](CN(CC1)C(=O)[C@@H]1C(C1)(C)C)C)=O)OC(F)(F)F)=O | C45H53F3N8O6
